US07947696B2
Analogous reaction of 2-amino-6-aminomethylcarbonylamino-4-(2-hydroxyphenyl)quinazoline with 4-chlorobutyramide gives the compound 2-amino-6-aminomethylcarbonylamino-4-[2-(3-aminocarbonylpropoxy)phenyl]quinazoline (“A61”).

reactant | 2-amino-6-aminomethylcarbonylamino-4-(2-hydroxyphenyl)quinazoline | NC1=NC2=CC=C(C=C2C(=N1)C1=C(C=CC=C1)O)NC(=O)CN | C16H15N5O2
reactant | 4-chlorobutyramide | ClCCCC(=O)N | C4H8ClNO
product | 2-amino-6-aminomethylcarbonylamino-4-[2-(3-aminocarbonylpropoxy)phenyl]quinazoline | NC1=NC2=CC=C(C=C2C(=N1)C1=C(C=CC=C1)OCCCC(=O)N)NC(=O)CN | C20H22N6O3
